US03947417
A solution of 1.5 part of ethyl (2-benzoyl-4-chlorophenylazo)-chloroacetylaminoacetate in 30 volume parts of acetic acid is refluxed for 10 minutes, and then the acetic acid is distilled off under reduced pressure. The residue is neutralized with a saturated aqueous solution of sodium bicarbonate and, then, extracted with ethyl acetate. The ethyl acetate layer is washed with water and dried over sodium sulfate. After evaporation of the solvent, the residue is treated with n-hexane to obtain ethyl 1-(2-benzoyl-4-chlorophenyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate as crystals.

reactant | ethyl (2-benzoyl-4-chlorophenylazo)-chloroacetylaminoacetate | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N=NC(C(=O)OCC)NC(CCl)=O | C19H17Cl2N3O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 1-(2-benzoyl-4-chlorophenyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CCl)C(=O)OCC | C19H15Cl2N3O3
